US05846982
4-hydroxy-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Following the procedure described in detail in Example 58, 1.2 gm (3.35 mMol) 4-cyclopropylmethoxy-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole were reacted with trimethylsilyl iodide to provide 0.359 gm (35%) of the title compound as a tan solid.

reactant | 4-cyclopropylmethoxy-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 3.35 mMol, 1.2 gm | C1(CC1)COC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)CC1=CC=CC=C1 | C24H26N2O
reactant | trimethylsilyl iodide | C[Si](C)(C)I | C3H9ISi
product | 4-hydroxy-3-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 0.359 gm, 35% | OC1=C2C(=CNC2=CC=C1)C=1CCN(CC1)CC1=CC=CC=C1 | C20H20N2O
